US05965546
4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxyl-3-hydroxy-a-methylbenzene methanol
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (4.3 g, 19.5 mmol), 4-(3-chloropropoxy)-3-hydroxy-α-methylbenzenemethanol (4.5 g, 19.5 mmol), KI (200 mg), NaHCO3 (1.8 g, 21.5 mmol) and CH3CN (125 ml) was stirred at reflux under nitrogen for 24 hours. The cooled reaction was filtered and the filter cake was washed with CH3CN. The filtrate was concentrated to afford an oily residue, which was partitioned between water and ethyl acetate. The ethyl acetate extract was washed with water, dried with MgSO4, and concentrated to yield 8.6 g of a dark oil. The oil was purified by preparative HPLC (Waters Associates prep LC/system 500) to yield 5.0 g. The compound was recrystallized twice from ethanol to provide 3.9 g (49%) of 4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-propoxy]-3-hydroxy-α-methyl-benzene methanol as a light beige solid, m.p.=142-144° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 19.5 mmol, 4.3 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | 4-(3-chloropropoxy)-3-hydroxy-α-methylbenzenemethanol | 19.5 mmol, 4.5 g | ClCCCOC1=C(C=C(C=C1)C(O)C)O | C11H15ClO3
reactant | NaHCO3 | 21.5 mmol, 1.8 g | C(=O)(O)[O-].[Na+]
reactant | CH3CN | 125 ml | CC#N | C2H3N
product | 3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxyl-3-hydroxy-a-methylbenzene methanol | 8.6 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=CC=C2O)C(O)C)C=C1 | C23H27FN2O4
